US06410732B2
9.0 g of acridan (49.6 mmol), 446 mg of Pd(OAc)2 (2 mmol), 321 mg of tri-t-butylphosphine, 7.16 g of sodium t-butoxide (74 mmol), and 9.6 g of 1-bromo-4-fluorobenzene (54 mmol) in 90 mL of dry toluene was stirred under argon at room temperature for 2 h. TLC showed the absence of starting material. The reaction mixture was filtered through a Büchner funnel and the solid washed with CH2Cl2. The filtrate was then concentrated in vacuo and the residue was taken up in CH2Cl2 and refiltered. The filtrate was concentrated to dryness and chromatographed on silica gel in 5% ethyl acetate in hexanes, changing to CH2Cl2. Fractions containing product were combined and concentrated to dryness to afford N-(4′-fluorophenyl)acridan.

reactant | acridan | 49.6 mmol, 9.0 g | C1=CC=CC=2NC3=CC=CC=C3CC12 | C13H11N
reactant | tri-t-butylphosphine | 321 mg | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
reactant | sodium t-butoxide | 74 mmol, 7.16 g | CC(C)([O-])C.[Na+]
reactant | 1-bromo-4-fluorobenzene | 54 mmol, 9.6 g | BrC1=CC=C(C=C1)F | C6H4BrF
solvent | toluene | 90 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(OAc)2 | 2 mmol, 446 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | N-(4′-fluorophenyl)acridan | FC1=CC=C(C=C1)N1C=2C=CC=CC2CC2=CC=CC=C12 | C19H14FN
